US09108939B2
A: 4-(4-Nitrophenoxy)piperidine
Tert-butyl 4-(4-nitrophenoxy)piperidine-1-carboxylate (3.10 mmol, 1 g) was dissolved in dichloromethane (10 mL). Trifluoroacetic acid (3 mL) was added and the reaction was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under vacuum and purified by SCX chromatography to afford the title compound (600 mg). MS (ESI) m/z 223.3 [M+H]+

reactant | Tert-butyl 4-(4-nitrophenoxy)piperidine-1-carboxylate | 3.10 mmol, 1 g | [N+](=O)([O-])C1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H22N2O5
reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(4-Nitrophenoxy)piperidine | 600 mg | [N+](=O)([O-])C1=CC=C(OC2CCNCC2)C=C1 | C11H14N2O3
